US09370522B2
A solution of methyl 3-cyano-2-phenylquinoxaline-6-carboxylate (50 mg, 0.17 mmol, 1.00 equiv) and NaOH (16 mg, 0.40 mmol, 3.00 equiv) in MeOH/H2O (5/5 mL) in a 50-mL round-bottom flask was allowed to react, with stirring, for 1 hr at room temperature, followed by a further 1 hr at 50° C. in an oil bath. The reaction progress was monitored by TLC (ethyl acetate:petroleum ether (1:2)). The pH value of the solution was adjusted to 4 with 1N HCl, and the resulting mixture was concentrated under vacuum. The solids were collected by filtration and dried in an oven under reduced pressure, giving 30 mg (46%) of 3-(4-cyanophenyl)-2-phenylquinoxaline-6-carboxylic acid as a white solid.

reactant | methyl 3-cyano-2-phenylquinoxaline-6-carboxylate | 0.17 mmol, 50 mg, 1.00 equiv | C(#N)C=1C(=NC2=CC=C(C=C2N1)C(=O)OC)C1=CC=CC=C1 | C17H11N3O2
reactant | NaOH | 0.40 mmol, 16 mg, 3.00 equiv | [OH-].[Na+]
reactant | HCl | 1N | Cl | ClH
solvent | MeOH H2O | 5 mL | CO.O
product | 3-(4-cyanophenyl)-2-phenylquinoxaline-6-carboxylic acid | 30 mg, 46% | C(#N)C1=CC=C(C=C1)C=1C(=NC2=CC=C(C=C2N1)C(=O)O)C1=CC=CC=C1 | C22H13N3O2
